US09388176B2
2-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]-N-[3-(trifluoromethyl)phenyl]isonicotinamide
In a manner similar to that described for Example 138, 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine and 2-bromo-N-(3-trifluoromethyl-phenyl)-isonicotinamide were converted to the title compound.

reactant | 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | 2-bromo-N-(3-trifluoromethyl-phenyl)-isonicotinamide | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CN1 | C13H8BrF3N2O
product | 2-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]-N-[3-(trifluoromethyl)phenyl]isonicotinamide | CSC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C=CN2 | C21H18F3N5OS
